Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I had a suicide attempt."
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is a ___ year old student at ___ with 
a self-reported history of depression and borderline personality 
disorder, who presents to the ___ ED following a suicide 
attempt by overdose on Trazodone 300mg. Psychiatry is consulted 
for evaluation and assistance with management and disposition.

___ reports that she has been "feeling down for months." 
___ states that she was in an abusive relationship with an 
ex-boyfriend for ___ months. She describes the relationship as 
physically and verbally abusive, but would not discuss the 
nature of the trauma further. She does note that she has 
symptoms of flashbacks, nightmares, and re-experiencing. She 
denies hypervigilance.  ___ reports that her mood has been 
depressed since the breakup, and describes her current mood as 
"really really low." She notes that she has been unable to 
sleep, she has low energy, and difficulty with concentration. 
She reports feeling hopeless and helpless. She states, "all I do 
is cry all day long." She denies any change in appetite.  Today, 
___ stated, "I wanted it all to stop," and states that she 
took Trazodone 300mg as an overdose. At present, ___ is 
ambivalent about having survived the attempt. She reports that 
she has ongoing intermittent suicidal thoughts, and continues to 
think about killing herself by overdose or slitting her wrists. 

___ attributes her worsening mood as a result of the abusive 
relationship. ___ states that she has had thoughts about 
killing her ex-boyfriend, but when asked if she had any specific 
plans, she stated, "not really," and would not elaborate 
further. ___ reports that she sits directly in front of her
ex-boyfriend in class, and finds this particularly triggering. 
___ denies any substance use today. She states that she has 
been taking her medications consistently.  She denies AVH. She 
denies any symptoms consistent with mania.

COLLATERAL:
___, ___, friend who accompanied ___ to 
ED: ___ states that he has been friends with the ___ for 
the past year, they know each other from ___.  ___ states 
that he received a call from the ___ while he was in class, 
stating that she "overdosed on purpose." ___ was quite 
concerned, left class and found the ___ in her bedroom.  
Upon arrival, he stated that ___ had already called ___.  
___ stated that he did not ask for details, "because I didn't 
think that she'd want me to know."  He describes the ___ as 
"very emotional" and "really sad," but thought that she had 
previously been doing OK. He is not aware of her making any 
suicidal statements prior to this, and not aware of any history 
of self-injurious behavior.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
- Diagnoses: Depression, borderline personality disorder
- Hospitalizations:  Denies
- Current treaters and treatment: Dr. ___ in 
___, ___. No therapist, no local treaters
- Medication and ECT trials: Wellbutrin, trazodone
- Self-injury: Denies
- Harm to others: Denies
- Access to weapons: "I have kitchen knives at home."

PAST MEDICAL HISTORY:
Sleep apnea
Reports history of head injury with concussion approx. ___ years 
ago, states she was in a tickle fight and bumped her head on a 
couch, became nauseous and developed a concussion 
Denies history of seizures

 
Social History:
SOCIAL HISTORY:
- Born/raised, childhood:  Born in ___, has one brother.
- Education:  Current second year at ___, 
studying ___ and ___
- Employment/Source of income:  Not working. States she has 
money from previous work, and that her father helps support her
- Housing: Living alone in a ___ in ___
- Relationship Status: Single
- Children: None
- Trauma/Abuse: As per HPI, reports recent abusive relationship 
with ex-boyfriend over ___ months, notes physical and verbal 
abuse, would not discuss details
- Access to weapons: States that she has kitchen knives at home 

SUBSTANCE ABUSE HISTORY:
- EtOH: Drinks a few times per month, ___ glasses of wine per 
sitting, denies any history of seizures, denies any problems 
with alcohol
- Tobacco: Denies
- Marijuana: Occasionally, "only when I have access to it, like 
a few times a month"
- Opiates, including heroin: denies, denies IVDU
- Benzodiazepines: denies
- Denies any other illicit drug use

FORENSIC HISTORY:
- Arrests: denies
- Convictions and jail terms: denies
- Current status (pending charges, probation, parole): NA

 
Family History:
FAMILY PSYCHIATRIC HISTORY:
Mother with bipolar disorder, states she has attempted suicide
Brother with depression, states he has attempted suicide
 
Physical Exam:
General: Young thin female of short stature in NAD. 
Well-nourished, well-developed. Appears stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear. 
Neck: Supple.  No JVD.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses 
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.  States has brief 
pain on pressing her lower legs, states that I should press with 
less pressure.  
Skin: No rashes, abrasions, scars, or lesions. 
Neurological:
Cranial Nerves:
II-XII intact. 
Gait: Steady. Normal stance and posture. No truncal ataxia.
Romberg: Negative.
Cognition: 
 Wakefulness/alertness: awake and alert
 Attention: intact to interview, MOYB x12
 Orientation: oriented to person, time, place, situation
 Executive function (go-no go, Luria, trails, FAS): not tested
 Memory: ___ registration, ___ recall
 Fund of knowledge: knows president
 Calculations: $1.75 -7 quarters
 Abstraction: ___ judge book by it's 
cover-"don't judge someone's life by looking at them"
 Visuospatial: not assessed
 Speech: normal rate, rhythm volume, and tone
 Language: native ___ speaker, no paraphasic errors, 
appropriate to conversation

Mental Status:
Appearance: No apparent distress, appears stated age-young, thin 
Caucasian female of relatively small stature, well-appearing, 
grooming and hygiene good, dyed blonde hair, in hospital gown
Behavior: Initially quite guarded, sarcastic, help-seeking but 
intermittently treatment-rejecting, later with more cooperation 
and appropriate eye contact, no psychomotor agitation or 
retardation
Mood and Affect: "blah" / dysphoric, at times constricted but 
later can become easily irritated, full range, appropriate to 
situation, congruent with mood
Thought Process: linear, coherent, goal-oriented. No LOA.
Thought Content: just overdosed with "intention to die", then 
called friend, has current SI - of differing nature, currently 
when people walk away she thinks of different ways to kill 
herself, such as by putting a fork down her throat or by choking 
herself with her socks, when asked about intent, states "I don't 
know," has intermittent HI toward ex-boyfriend who previously 
beat her, she wants to show him how he made her feel, sometimes 
wishes to hurt him or kill him either by herself or through 
someone else, uncertain currently of intent or plans, denies 
AH/VH currently-though stated once saw a bug that wasn't there 
once 2 weeks ago, no evidence of delusions or paranoia
Judgment and Insight: poor/poor-just overdosed with intention to 
"die"

 
Pertinent Results:
___ 07:30PM URINE  UCG-NEGATIVE
___ 07:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 07:30PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 07:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 06:10PM   GLUCOSE-96 UREA N-7 CREAT-0.7 SODIUM-137 
POTASSIUM-3.3 CHLORIDE-100 TOTAL CO2-22 ANION GAP-18
___ 06:10PM   ALT(SGPT)-18 AST(SGOT)-18 ALK PHOS-52 TOT 
BILI-1.3
___ 06:10PM   LIPASE-21
___ 06:10PM   ALBUMIN-4.3 CALCIUM-9.4 PHOSPHATE-3.0 
MAGNESIUM-1.9
___ 06:10PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:10PM   WBC-10.5* RBC-4.62 HGB-13.7 HCT-39.9 MCV-86 
MCH-29.7 MCHC-34.3 RDW-11.9 RDWSD-37.4
___ 06:10PM   NEUTS-69.7 ___ MONOS-5.7 EOS-0.2* 
BASOS-0.4 IM ___ AbsNeut-7.33* AbsLymp-2.47 AbsMono-0.60 
AbsEos-0.02* AbsBaso-0.04
___ 06:10PM   PLT COUNT-201
 
Brief Hospital Course:
SAFETY:  The ___ was initially placed on constant 
observation as she appeared emotionally dysregulated on 
admission. She was quickly advanced to 5 min checks and 15 min 
checks. No unsafe behavior was reported or noted.

LEGAL: ___
PSYCHIATRIC:
#PTSD vs borderline personality disorder
___ presented after a suicide attempt in the setting of 
depressed mood related to prior abusive relationship. She was in 
a relationship lasting ___ months with her ex-boyfriend who was 
verbally and physically abusive. She reported symptoms of 
flashbacks, nightmares, and re-experiencing. She noted depressed 
mood, with associated low energy, poor sleep, hopelessness, and 
helplessness. She reported ongoing intermittent SI, with 
thoughts of overdose on her medications and thoughts of slitting 
her wrists. Her ex-boyfriend sat behind her in class three days 
a week and she found this extremely triggering.

She was admitted on bupriopion 100mg daily. With ___ 
consent, she was started on sertraline 25mg and uptitrated to 
50mg daily. Trazodone was discontinued as ___ overdosed on 
this medication. She continued to complain of insomnia and 
mirtazapine was started to aid with sleep. ___ agreed to 
start mirtazapine at 15mg QHS. She tolerated medications well 
without side effects however was unsure if she would continue 
the mirtazapine at discharge.

___ was initially dysregulated on admission with tearful 
outbursts. She quickly recompensated with visits from her father 
who flew over from ___ as soon as he knew she was in the 
hospital. After several more visits, her father felt Ms. 
___ was back at baseline and felt comfortable taking her 
home to ___ for the ___ holiday. She was discharged 
to his care.

GENERAL MEDICAL CONDITIONS:
#sleep apnea: ___ reported poor sleep due to sleep apnea. 
She has been fitted for CPAP in the past however refused CPAP 
while inpatient. She received education regarding the long-term 
effects of untreated sleep apnea and was encouraged to follow-up 
with her PCP to be fitted for a different mask that she may 
tolerate better. 

#tachycardia: ___ complained of some brief dizziness upon 
admission. This was likely due to poor PO intake as it improved 
with PO hydration and nutrition. Her EKG in the ED following 
trazodone overdose was notable for QTc of 558. Subsequent 
follow-up EKGs were reassuring with QTC 389 and 414. Upon 
discharge, QTc was 422.

PSYCHOSOCIAL:
#) GROUPS/MILIEU: Pt was encouraged to participate in unit’s 
groups/milieu/therapy opportunities. Use of coping skills and 
mindfulness/relaxation methods were encouraged. Therapy 
addressed family/social/work issues. ___ was visible in the 
milieu and appropriately interactive with peers. There were no 
unsafe behaviors reported.

#) COLLATERAL CONTACTS: ___ did not have any psychiatric 
providers in the area. She has a psychiatrist at home in 
___ however expressed interest in initiating care with 
new providers in ___ as she did not think it was a good fit. 
The team reached out to providers in the community and will call 
___ with appointments. 

#) FAMILY INVOLVEMENT:
___ father flew to ___ from ___ upon hearing news 
that the ___ was in the hospital. He was very supportive and 
visited the ___ often. The team had discussions with 
___ father regarding treatment progress and development of 
a safe discharge plan. The father supported plan of discharging 
the ___ to his care to return to ___ for the 
___ holiday as home is a calmer and less stressful 
environment.

#) INTERVENTIONS:
Medications
Psychotherapeutic interventions: individual, group, and milieu 
therapy
Coordination of aftercare
Behavioral interventions 

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
___. We discussed the ___ right to decide whether to 
take this medication as well as the importance of the ___ 
actively participating in the treatment and discussing any 
questions about medications with the treatment team, and I 
answered the ___ questions. The ___ appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT:

#) Chronic/Static Risk Factors:
- mental illness
- suicide attempt
- history of head injury
- family history of mental illness with suicide attempts in 
mother and brother

#) ___ Risk Factors:
- suicidality/ depressed mood: ___ denied suicidality at 
discharge. She noted improvement in her mood with initiation of 
sertraline and being in supportive, therapeutic environment.
- lack of local outpatient providers: ___ was referred to 
local outpatient psychiatrist and therapists upon discharge.

#) Protective Factors:
- supportive family
- intelligence/education
- future orientation
- lack of access to lethal weapons
- lack of suicidality
- stable housing

PROGNOSIS:
Good: ___ has fair insight into her mental illness and is 
willing to engage in treatment. She is aware of resources and is 
able to reach out to supports, providers and the hospital should 
she feel unsafe. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion (Sustained Release) 100 mg PO DAILY 
2. TraZODone ___ mg PO QHS 
3. Orsythia (levonorgestrel-ethinyl estrad) 0.1-20 mg-mcg oral 
DAILY 

 
Discharge Medications:
1. BuPROPion (Sustained Release) 100 mg PO DAILY 
2. Orsythia (levonorgestrel-ethinyl estrad) 0.1-20 mg-mcg oral 
DAILY 
3. Sertraline 50 mg PO DAILY 
RX *sertraline 50 mg 1 tablet(s) by mouth QAM Disp #*14 Tablet 
Refills:*0
4. Mirtazapine 15 mg PO QHS 
RX *mirtazapine 15 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PTSD, borderline personality disorder

 
Discharge Condition:
  *Appearance: petite Caucasian woman, blond hair, dressed 
casually  Behavior: calm, cooperative, fair eye contact
  *Mood and Affect: 'fine' / euthymic, full range
  *Thought process: linear, coherent, no LOA
  *Thought Content: denied SI/HI
  *Judgment and Insight: improved/improved
  Cognition:
    *Attention, *orientation, and executive function: attentive
to interview
    *Memory: intact to recent events
    *Fund of knowledge: appropriate
    *Speech: normal rate, volume, tone
    *Language: ___, fluent

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized at ___ for depression and suicide 
attempt.  We adjusted your medications, and you are now ready 
for discharge and continued treatment with outpatient providers.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
-Please follow-up with your primary care doctor to reassess your 
sleep apnea.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___